US07812022B2
Step A: 2-Chloroethyl 3-nitrophenyl ether
To a mixture of 3-nitrophenol (5.0 g, 35.94 mmol), K2CO3 (7.45 g, 53.9 mmol), in 2-butanone at 85° C. 1-bromo-2-chloroethane (1.723 mL, 71.88 mmol) was added and stirred for 24 h. The mixture was cooled to rt and reduced in vacuo, then diluted with EtOAc (200 mL) and water (200 mL) and separated. The aqueous layer was extracted twice with EtOAc (200 mL) and the combined organic layers were dried over MgSO4 and reduced in vacuo onto silica. Purified via column chromatography using gradient of EtOAc/Hexanes to afford a yellow oil that solidified upon standing to afford 4.22 g (58% yield) of desired product as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 7.8 (m, 1H), 7.7 (t, J=2.4 Hz, 1H), 7.6 (t, J=8.2 Hz, 1H) 7.4 (dd, J=8.2, 2.6 Hz, 1H), 4.4 (m, 2H), 4.0 (m, 2H).

reactant | 3-nitrophenol | 35.94 mmol, 5.0 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | K2CO3 | 53.9 mmol, 7.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-chloroethane | 71.88 mmol, 1.723 mL | BrCCCl | C2H4BrCl
solvent | 2-butanone | CC(CC)=O | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | water | 200 mL | O | H2O
product | 2-Chloroethyl 3-nitrophenyl ether | 4.22 g, 58% yield | [N+](=O)([O-])C=1C=C(C=CC1)OCCCl | C8H8ClNO3
